US07968746B2
To one of the above aliquots of crude 2-(chlorocarbonyl)-2,5,7,8-tetramethylchroman-6-yl acetate in 10 mL CH2Cl2 was added 1.0 mL diisopropylethylamine followed by 315 mg 1-hexylamine and overnight stirring. The reaction mixture was poured into 1.0 M citric acid and 50 mL EtOAc added. The organic layer was separated and purified by flash chromatography to give 781 mg of 2-(hexylcarbamoyl)-2,5,7,8-tetramethylchroman-6-yl acetate, as a clear syrup. MS (m/z): M+376.3

reactant | 2-(chlorocarbonyl)-2,5,7,8-tetramethylchroman-6-yl acetate | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(C)C(=O)Cl)C | C16H19ClO4
reactant | diisopropylethylamine | 1.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-hexylamine | 315 mg | C(CCCCC)N | C6H15N
reactant | citric acid | 1.0 M | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 2-(hexylcarbamoyl)-2,5,7,8-tetramethylchroman-6-yl acetate | 781 mg | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(C)C(NCCCCCC)=O)C | C22H33NO4
